US09029560B2
Preparation of (Z)-1-(3-(4-fluoro-2-isopropylphenyl)-4-oxothiazolidin-2-ylidene)-3-(2-(4-(1-(4-(trifluoromethoxy)phenyl)-1H-1,2,4-triazol-3-yl)phenyl)butyl)urea (P1163)
The title compound was prepared from 3-(4-(1-(4-(trifluoromethoxy)phenyl)-1H-1,2,4-triazol-3-yl)phenyl)pentanoyl azide/3-(4-(1-isocyanatobutan-2-yl)phenyl)-1-(4-(trifluoromethoxy)phenyl)-1H-1,2,4-triazole (C42a) and 1-(4-fluoro-2-isopropylphenyl)thiourea and isolated as a brown foam (0.072 g, 30%).

reactant | 3-(4-(1-(4-(trifluoromethoxy)phenyl)-1H-1,2,4-triazol-3-yl)phenyl)pentanoyl azide 3-(4-(1-isocyanatobutan-2-yl)phenyl)-1-(4-(trifluoromethoxy)phenyl)-1H-1,2,4-triazole | FC(OC1=CC=C(C=C1)N1N=C(N=C1)C1=CC=C(C=C1)C(CC(=O)N=[N+]=[N-])CC)(F)F.N(=C=O)CC(CC)C1=CC=C(C=C1)C1=NN(C=N1)C1=CC=C(C=C1)OC(F)(F)F
reactant | 1-(4-fluoro-2-isopropylphenyl)thiourea | FC1=CC(=C(C=C1)NC(=S)N)C(C)C | C10H13FN2S
product | (Z)-1-(3-(4-fluoro-2-isopropylphenyl)-4-oxothiazolidin-2-ylidene)-3-(2-(4-(1-(4-(trifluoromethoxy)phenyl)-1H-1,2,4-triazol-3-yl)phenyl)butyl)urea | FC1=CC(=C(C=C1)N1/C(/SCC1=O)=N/C(=O)NCC(CC)C1=CC=C(C=C1)C1=NN(C=N1)C1=CC=C(C=C1)OC(F)(F)F)C(C)C | C32H30F4N6O3S
